US06608072B1
d) 4-(4-Fluorophenyl)-2-(1-ethoxycarbonylpiperidin-4-yl)-5-(2-(1-(S)-phenylethyl)amino-4-pyridinyl)thiazole
4-(4-Fluorophenyl)-2-(1-ethoxycarbonylpiperidin-4-yl)-5-(2-fluoro-4-pyridinyl)thiazole (2.4 g. 5.5 mmol) and 1-(S)-phenylethylamine (5.5 ml are heated to 195° C. for 5 h. The reaction mixture is evaporated and purified by SiO2 chromatography (ethyl acetate/cyclohexane 20/80 to 30/70) to yield the title compound as a white foam (2.0 g 67.3%)

reactant | 4-(4-Fluorophenyl)-2-(1-ethoxycarbonylpiperidin-4-yl)-5-(2-fluoro-4-pyridinyl)thiazole | 5.5 mmol, 2.4 g | FC1=CC=C(C=C1)C=1N=C(SC1C1=CC(=NC=C1)F)C1CCN(CC1)C(=O)OCC | C22H21F2N3O2S
reactant | 1-(S)-phenylethylamine | C1(=CC=CC=C1)[C@H](C)N | C8H11N
product | 4-(4-Fluorophenyl)-2-(1-ethoxycarbonylpiperidin-4-yl)-5-(2-(1-(S)-phenylethyl)amino-4-pyridinyl)thiazole | 2.0 g, 67.3% | FC1=CC=C(C=C1)C=1N=C(SC1C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)C1CCN(CC1)C(=O)OCC | C30H31FN4O2S
